data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_252641_0,[C:1](/[C:3](=[C:2](\[N:4]([H:8])[H:9])[O:6][H:7])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:2](=[C:3](\[N:5]([H:10])[H:11])[O:6][H:7])[N:4]([H:8])[H:9])([H:12])([H:13])[H:14],66.59469250004506
MR_253980_0,[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])(/[C:5](=[N:7]\[H:11])[H:12])[H:10])([C:3]([H:13])([H:14])[H:15])([N:6]=[O:8])[H:9]>>[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([N:6]=[O:8])[H:10])([C:3]([H:13])([H:14])[H:15])(/[C:5](=[N:7]\[H:11])[H:12])[H:9],73.18030500000418
MR_317540_0,[C:1]([C@@:4]([C:2]([O:7][H:10])=[O:9])([C@@:5]1([H:12])[C:3](=[O:8])[C:6]1([H:16])[H:17])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:4]([C:2]([O:7][H:10])=[O:9])=[C:5](/[C:3](=[C:6]([H:16])[H:17])[O:8][H:11])[H:12])([H:13])([H:14])[H:15],44.61023000004914
MR_247320_1,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([N:4]([H:9])[H:10])([O:6][H:7])[H:8]>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]([C:2]([H:11])([H:12])[H:13])([O:6][H:7])[C:5]1([H:14])[H:15],63.68058249998328
MR_270889_2,[C:1]1([O:7][H:9])([H:11])[C:2]([C:5]([C:3]([C:6]([H:18])([H:19])[H:20])([O:8][H:10])[H:13])([H:16])[H:17])([H:12])[C:4]1([H:14])[H:15]>>[C@:1]1([O:7][H:9])([H:11])[C@:2]([C:5]([C@@:3]([C:6]([H:18])([H:19])[H:20])([O:8][H:10])[H:13])([H:16])[H:17])([H:12])[C:4]1([H:14])[H:15],60.6133625000227
MR_470671_0,[C:1]1([O:5][H:10])([H:14])[N:2]([H:13])[C:4]1([O:7][H:12])[O:9][C:3]([O:6][H:11])=[O:8]>>[C:1]([N:2]([C:3]([O:6][H:11])=[O:8])[H:13])([C:4]([O:7][H:12])=[O:9])([O:5][H:10])[H:14],38.31013000001121
MR_26894_2,[C:1](/[C:2](=[N:5]/[H:6])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])([H:7])[H:8]>>[C:1]1([H:7])([H:8])/[C:2](=[N:5]/[H:6])[C:3]1([C:4]([H:9])([H:11])[H:12])[H:10],62.268707499998825
MR_409114_1,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[C:5](=[O:7])[H:10])=[O:6])([H:11])([H:12])[H:13]>>[C:1]([C:3](=[O:6])[O:7]/[C:5](=[N:2]\[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13],40.73416250002623
MR_647791_1,[C:1]([N:3](/[C:4](=[N:7]/[C:5]([C:2]([H:15])([H:16])[H:17])[O:6][H:9])[N:8][H:11])[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:3]([C@@:5]([C:2]([H:15])([H:16])[H:17])([O:6][H:9])[N:7][C:4][N:8][H:11])[H:10])([H:12])([H:13])[H:14],40.84209250000342
MR_614953_0,[C:1]([C:2]([N:4]([C:3]([H:13])([H:14])[H:15])[O:7][H:8])([N:5]([H:11])[H:12])[H:10])(=[O:6])[H:9]>>[C:1]1([N:4]([C:3]([H:13])([H:14])[H:15])[O:7][H:8])([H:9])[C:2]([N:5]([H:11])[H:12])([H:10])[O:6]1,41.48653500001714
MR_641830_0,[C:1]1([H:11])([H:12])[N:3]([H:8])[C:5]([C:2]([H:13])([H:14])[H:15])=[C:4]([N:6]([H:9])[H:10])[O:7]1>>[C:1]1([H:11])([H:12])[C:4](/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:8])([N:6]([H:9])[H:10])[O:7]1,61.26596250001583
MR_594069_1,[C:1]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])([C:3]([O:7][N:4]([H:10])[H:11])=[O:8])([N:5]([H:12])[H:13])[H:9]>>[C:1]([C:3]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])=[O:8])([N:5]([H:12])[H:13])([O:7][N:4]([H:10])[H:11])[H:9],54.46135250000325
MR_516784_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[O:7][H:8])([N:5]([C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[N:5]([C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12],68.67736500003019
MR_420416_0,[C:1]([N:2]([H:8])[H:9])(/[C:4](=[C:3](/[O:5][H:7])[H:11])[H:12])=[N:6]/[H:10]>>[C:1]1([N:2]([H:8])[H:9])=[C:4]([H:12])[C:3]([O:5][H:7])([H:11])[N:6]1[H:10],34.72020250001492
MR_532392_2,[C:1]([C:4]1([C:6](=[C:8]([H:19])[H:20])[H:13])[C:3]2([C:2]([N:5]([H:11])[H:12])=[O:10])[C:7]([H:17])([H:18])[N:9]21)([H:14])([H:15])[H:16]>>[C:1](/[C:4]([C:6](=[C:8]([H:19])[H:20])[H:13])=[N:9]/[C:3]([C:2]([N:5]([H:11])[H:12])=[O:10])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16],32.162512500016334
MR_245510_0,[C:1]([C:4](/[C:3](=[N:2]/[N:5]([H:8])[H:9])[O:6][H:10])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:3]([N:2]([N:5]([H:9])[H:10])[H:8])=[O:6])=[O:7])([H:11])([H:12])[H:13],55.41138749999448
MR_345147_1,[C:1]([C:4]([N:3]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])[N:6]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:7](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:3]\[N:6]([H:9])[H:10])([H:17])[H:18])=[O:8])([H:11])([H:12])[H:13],60.92083749999546
MR_374037_1,[C:1](\[C:3]([H:11])([H:12])[H:16])([C:5]([C:2]([H:13])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])[N:7]([H:8])[H:10])=[N:6]\[H:9]>>[C:1]1([C:3]([H:11])([H:12])[H:16])([N:6]([H:8])[H:9])[C:5]([C:2]([H:13])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])[N:7]1[H:10],58.248942500035525
MR_466072_0,[C:1]1([H:10])([H:11])[N:3]([H:9])[O:6][C:4]([O:7][H:8])=[C:5]1[C:2]([H:12])([H:13])[H:14]>>[C:1](=[C:5]([C:2]([H:12])([H:13])[H:14])[C:4]1([O:7][H:8])[N:3]([H:9])[O:6]1)([H:10])[H:11],49.3604050000053
MR_478542_2,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([N:7]=[O:8])[H:11])([N:4]([H:12])[H:13])([O:5][H:9])[O:6][H:10]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([N:7]([O:6][H:10])[O:8][H:9])[H:11])([N:4]([H:12])[H:13])=[O:5],32.111684999966315
